US06150352
Step 13A (S)-2-{2-[7-chloro-3-(3,5-dimethylphenyl)-1-methyl-6-(1-methyl-3-pyrimidin-4-yl-ureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of lithium bis(trimethylamide) (0.43 mL of a 1M solution in 1.0 mL dry tetrahydrofuran) at -78° C. was added 0.198 mL hexamethylphosphoramide (HMPA) followed by a solution of (S)-2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(3-pyrimidin-4-yl-ureido)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (prepared essentially as described in EXAMPLE 1, 69 mg in 1.5 mL dry tetrahydrofuran) and the mixture stirred at low temperature for 75 minutes. At this time, 0.036 mL of iodomethane was added and the mixture warmed to 0° C. After 4 hours, the reaction was quenched by the addition of IN hydrochloric acid, extracted with methylene chloride washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane 3:7; then 5:5; then 7:3) gave the title compound (30 mg).

reactant | hexamethylphosphoramide | 0.198 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | (S)-2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(3-pyrimidin-4-yl-ureido)-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)NC1=NC=NC=C1)Cl)=O)C1=CC(=CC(=C1)C)C | C34H39ClN6O5
reactant | iodomethane | 0.036 mL | IC | CH3I
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | (S)-2-{2-[7-chloro-3-(3,5-dimethylphenyl)-1-methyl-6-(1-methyl-3-pyrimidin-4-yl-ureido)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 30 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCOC1=C(C(N(C2=CC(=C(C=C12)N(C(=O)NC1=NC=NC=C1)C)Cl)C)=O)C1=CC(=CC(=C1)C)C | C36H43ClN6O5
